US04288449
20 g of 3-nitro-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester in 1 liter of ethyl acetate are hydrogenated in the presence of 2 g of palladium on active charcoal, initially at room temperature and then at 40°-50° C. After filtering off the catalyst and concentrating the filtrate under reduced pressure, the residue is chromatographed over a silica gel column, using methylene chloride. The fractions containing the desired product are freed from solvent and the residue is recrystallized from methanol. 3-Amino-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester of melting point 118°-119° C. is obtained.

reactant | 3-nitro-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester | 20 g | COC(C1C(C(=C(C(=C1)N1C=CC=C1)SC1=CC=CC=C1)[N+](=O)[O-])=S(=O)=O)=O | C18H14N2O6S2
reactant | charcoal | C | CH4
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 2 g | [Pd] | Pd
product | 3-Amino-4-phenylthio-5-pyrrol-1-yl-sulfonylbenzoic acid methyl ester | Yield: 80% | COC(C1C(C(=C(C(=C1)N1C=CC=C1)SC1=CC=CC=C1)N)=S(=O)=O)=O | C18H16N2O4S2
